US08557876B2
A 100 mL reaction flask is charged with 1-(3,3-dimethyl-cyclohexyl)-ethanone (Herbac®) (10 g, 0.06 mol, commercially available at IFF), formamidine acetate (31 g, 0.3 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 4-(3,3-dimethyl-cyclohexyl)-pyrimidine (˜10 g) is obtained.

reactant | 1-(3,3-dimethyl-cyclohexyl)-ethanone | CC1(CC(CCC1)C(C)=O)C | C10H18O
reactant | formamidine acetate | 0.3 mol, 31 g | C(C)(=O)O.C(=N)N
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 4-(3,3-dimethyl-cyclohexyl)-pyrimidine | ˜10 g | CC1(CC(CCC1)C1=NC=NC=C1)C | C12H18N2
